US05972937
1-(2-t-Butyldimethylsilyloxyethoxy)-3-nitrobenzene
To a stirred solution of 3-nitrophenol (5 g, 36 mmol) in dimethylformamide (100 ml) at 0° C. was added sodium hydride (1.029 g, 34.4 mmol). After effervescence had subsided 1-t-butyldimethylsilyl-2-iodoethane was added (10.811 g, 37.8 mmol) and the reaction mixture left at room temperature for 18 hours. Potassium carbonate (2 g) was added and the mixture heated at 100° C. for 2 h. It was then quenched with saturated aqueous ammonium chloride solution and evaporated under reduced pressure. The residue was then partitioned between water and ethyl acetate and the organic extract washed with saturated aqueous sodium chloride solution twice, before being separated, dried, and evaporated under reduced pressure to give the crude product as a brown oil (9.697 g, 91%). This was chromatographed on silica eluting with 0-15% ethyl acetate/petroleum ether to give the product as a yellow oil (7.918 g, 74%)

reactant | 3-nitrophenol | 36 mmol, 5 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | sodium hydride | 34.4 mmol, 1.029 g | [H-].[Na+]
reactant | 1-t-butyldimethylsilyl-2-iodoethane | [Si](C)(C)(C(C)(C)C)CCI | C8H19ISi
reactant | Potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-t-Butyldimethylsilyloxyethoxy)-3-nitrobenzene | 7.918 g, 74% | [Si](C)(C)(C(C)(C)C)OCCOC1=CC(=CC=C1)[N+](=O)[O-] | C14H23NO4Si
